US05807859
To a suspension of 0.5 g of 10-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one in 15 ml of dimethylformamide is added 0.6 ml of ethyl trifluoroacetate at a temperature in the region of 20° C. The reaction medium is heated at 60° C. for 5 hours and is then cooled and concentrated to dryness under reduced pressure (15 mmHg; 2 kPa). The residue is taken up in dichloromethane and the insoluble product is filtered off, washed and dried. After purification by flash chromatography using a mixture of ethyl acetate and methanol (90/10 by volume) as eluent, 0.06 g of 10-imino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is obtained in the form of a reddish powder, the melting point of which is greater than 260° C. (NMR spectrum: [200 MHz; (CD3)2SO-d6 ; δ in ppm]: from 7.20 to 7.50 (mt, 2H: --H 7 and --H 8); 7.57 and 8.33 (2s, 1H each: --H of the imidazole); 7.65 and 7.86 (2 broad d, J=8 Hz, 1H each: --H 6 and --H 9); from 11.10 to 12.10 (broad mult., 1H: --CONH--)).

reactant | 10-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.5 g | NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C13H10N4O
reactant | ethyl trifluoroacetate | 0.6 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 10-imino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.06 g | N=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C13H8N4O
